US03966957
4-Amino-5-chloro-2-methoxy-N-(1-methyl-3-pyrrolidinyl)benzamide
A suspension of 5.3 g. (0.022 mole) of 4-acetamido-5-chloro-2-methoxybenzoic acid in 30 ml. of thionyl chloride was refluxed for two hours and then concentrated. To the concentrate was added 100 ml. of chloroform and the solution was again concentrated. The residue was again dissolved in chloroform and added at a rapid drop to a chloroform solution containing 2.4 g. (0.024 mole) of 3-amino-1-methylpyrrolidine. The solution was stirred for one hour and concentrated. The residue was dissolved in 100 ml. of 4N hydrochloric acid and the solution was refluxed for 10 minutes, cooled in an ice bath and basified with sodium hydroxide. The mixture was extracted with chloroform and the extract dried and concentrated. The crystalline residue was recrystallized from isopropyl ether-isopropyl alcohol followed by another recrystallization from ethyl acetate. The yield of product was 1.4 g. (22 %); m.p. 185°-187°C.

reactant | 4-acetamido-5-chloro-2-methoxybenzoic acid | 0.022 mole | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-1-methylpyrrolidine | 0.024 mole | NC1CN(CC1)C | C5H12N2
product | 4-Amino-5-chloro-2-methoxy-N-(1-methyl-3-pyrrolidinyl)benzamide | NC1=CC(=C(C(=O)NC2CN(CC2)C)C=C1Cl)OC | C13H18ClN3O2
